US08293772B2
A mixture of NaN3 (3.3 g), H2O (8 mL) and DCM (2.8 mL) was cooled to 0° C. under stirring. Trifluoromethanesulfonic anhydride (1.34 mL, 8.46 mmol) was added slowly, keeping the temperature in the range −2 to 1° C. After 2 h the reaction mixture separated in a separation funnel. The aqueous phase was washed with EtOAc. The organic phases were washed with saturated NaHCO3 and concentrated in vacuo to give crude trifluoromethansulfonic azide that was used in the following.

reactant | NaN3 | 3.3 g | [N-]=[N+]=[N-].[Na+]
reactant | H2O | 8 mL | O | H2O
reactant | Trifluoromethanesulfonic anhydride | 8.46 mmol, 1.34 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 2.8 mL | C(Cl)Cl | CH2Cl2
product | trifluoromethansulfonic azide | FC(S(=O)(=O)N=[N+]=[N-])(F)F | CF3N3O2S
